US07259157B2
4-Hydroxy-N-piperidin-3-ylmethyl-benzamide
To a solution of 4-hydroxy-N-pyridin-3-ylmethyl-benzamide (2.0 g, 0.0088 mol) in acetic acid (135 mL) was added platinum oxide (200 mg) and the mixture stirred under hydrogen for 3 h. The reaction was filtered and concentrated in vacuo to give an oil.

reactant | 4-hydroxy-N-pyridin-3-ylmethyl-benzamide | 0.0088 mol, 2.0 g | OC1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1 | C13H12N2O2
solvent | acetic acid | 135 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 200 mg | [Pt]=O
product | 4-Hydroxy-N-piperidin-3-ylmethyl-benzamide | OC1=CC=C(C(=O)NCC2CNCCC2)C=C1 | C13H18N2O2
